US07384930B2
To a stirred solution of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid (8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-4-yl)-amide (27 mg, 0.058 mmol) in dichloromethane (10 mL) was added methanol (2 mL), ether (3 mL) followed by sulfuryl chloride (70 μL) at room temperature. The reaction mixture was stirred for additional 12 h and then concentrated. The crude product was purified by Prep HPLC to give 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid (7,9-dichloro-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-4-yl)-amide in 58% yield. MS (ESI) 532 (M+H); Rf=1.40.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid (8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-4-yl)-amide | 0.058 mmol, 27 mg | OC=1C=CC2=C(CN(C(C(C2)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C)C1 | C25H29N5O4
reactant | methanol | 2 mL | CO | CH4O
reactant | ether | 3 mL | CCOCC | C4H10O
reactant | sulfuryl chloride | 70 μL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid (7,9-dichloro-8-hydroxy-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-4-yl)-amide | 58% yield | ClC1=CC2=C(CN(C(C(C2)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C)C(=C1O)Cl | C25H27Cl2N5O4
